US06414011B1
3-[4-(4-Fluorophenoxy)phenyl]-1H-pyrazole-1-carboxylic acid dimethylamide
A solution of 3-[4-(4-fluorophenoxy)phenyl]-1H-pyrazole (467 mg, 1.84 mmol) in 7 mL of THF containing 0.3 mL (2.13 mmol) of triethylamine was treated with 0.3 mL (3.2 mmol) dimethylcarbamyl chloride added via syringe. No reaction was observed at room temperature. An additional 0.3 mL of dimethylcarbamyl chloride was added and the reaction was heated at reflux overnight. The reaction was then added to a saturated aqueous NaHCO3 solution and EtOAc. The aqueous layer was washed with EtOAc and the pooled organic layers were dried (Na2SO4), filtered and concentrated to dryness. Column chromatography (7/3 hexane/EtOAc) afforded 282 mg of the title compound as a yellow oil that solidified on standing, mp 59-63° C. 1H NMR (CDCl3): δ8.15 (d, 1H, J=2.7 Hz), 7.80 (d, 2H, J=8.4 Hz), 7.06-6.88 (m, 6H), 6.62 (d, 1H, J=2.7 Hz), 3.30 (br s, 6H).

reactant | 3-[4-(4-fluorophenoxy)phenyl]-1H-pyrazole | 1.84 mmol, 467 mg | FC1=CC=C(OC2=CC=C(C=C2)C2=NNC=C2)C=C1 | C15H11FN2O
reactant | THF | 2.13 mmol, 7 mL | C1CCOC1 | C4H8O
reactant | dimethylcarbamyl chloride | 3.2 mmol, 0.3 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | dimethylcarbamyl chloride | 0.3 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[4-(4-Fluorophenoxy)phenyl]-1H-pyrazole-1-carboxylic acid dimethylamide | 282 mg | CN(C(=O)N1N=C(C=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C | C18H16FN3O2
